US07186716B2
3-[3-(2,6-Dichloro-phenyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine
A mixture of (2-chloro-pyridin-3-yl)-[3-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone (160 mg) and hydrazine hydrate (0.5 mL) in ethanol (8 mL) was heated at 90–100° C. for 24 hours. The reaction was concentrated, the residue was purified on a silica gel column to give 30 mg of the titled compound.

reactant | (2-chloro-pyridin-3-yl)-[3-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone | 160 mg | ClC1=NC=CC=C1C(=O)C=1NC=CC1C1=C(C=CC=C1Cl)Cl | C16H9Cl3N2O
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-[3-(2,6-Dichloro-phenyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine | 30 mg | ClC1=C(C(=CC=C1)Cl)C1=C(NC=C1)C1=NNC2=NC=CC=C21 | C16H10Cl2N4
